Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Right abdominal pain and pelvic mass
 
Major Surgical or Invasive Procedure:
Exploratory laparotomy, right salpingo-oophorectomy 

 
History of Present Illness:
 ___ yo G0 woman who presented to the ED with significant RLQ
abdominal pain starting at 8:00 this morning with some 
associated
nausea.  The pain is constant and sharp in nature. 
She reports having intermittent abdominal cramping and gas pains
for the last ___ years.  Over the last 2 months she has noted
increased abdominal distention with weight gain. 
She presented to ___ and had a CT scan which showed 25 x
28 x 18 cm right adnexal cystic mass with nodularity.  She was
given Dilaudid in the ED with some temporary relief of her pain
to ___ out of 10.  However the pain increases after the
medication wears off.  She was transferred to ___ for further
management.

She denies any vaginal bleeding, abnl vaginal discharge, 
dysuria,
hematuria, diarrhea, F/C, CP/SOB.  She reports regular bowel
movements and has no known sick contacts.
 
Past Medical History:
OBHx:
- G0
 
GynHx:
- LMP ___
- menses she has regular monthly menses lasting about 4 days 
with
minimal dysmenorrhea.  She denies any intramenstrual bleeding
- No history of LEEP or other cervical procedure
- denies h/o abnl Pap, fibroids, Gyn surgery, STIs
- last pap ___ yrs ago
- no h/o colonoscopies

PMH: 
- h/o MRSA
- migraines
 
PSH: 
- none         

Allergy:
NKDA       

 
Social History:
___
Family History:
denies bleeding/clotting disorders, gyn/GI malignancies,
breast cancer. grandfather with lung cancer

 
Physical Exam:
==========================================
PREOPERATIVE PHYSICAL EXAM
==========================================
VS: 
97.8 83 ___ 96% RA 
Gen: alert and oriented, lying on side, no acute distress, able 
to move around in bed
CV: regular rate and rhythm
Pulm: clear to auscultation bilaterally
Abd: soft, distended, no rebound/guarding. no peritoneal signs.
Moderate tenderness to palpation over right side of abdomen, 
soft abdominal mass.
Back: no costovertebral angle tenderness to palpation
Ext: no tenderness to palpation
Skin- no boils
Pelvic:
BME: mild cervical motion tenderness and moderate right sided 
tenderness to palpation. 
==========================================
PHYSICAL EXAM ON DISCHARGE:
==========================================

Physical Exam:
Vital signs: T 98.6, BP 106 / 74, HR 91, RR 18, SpO2 96% Ra 
Ins/Outs: 1535 ml (___) / 1850 ml ___ and 400 since midnight ___

General: no acute distress, comfortable
CV: regular rate and rhythm, normal s1 and s2, no m/r/g
Lungs: normal work of breathing, clear to auscultation 
bilaterally
Abdomen: soft, non-distended, appropriately tender to palpation
without rebound or guarding, incision/dressing clean/dry/intact;
there is a 2cm border of bruising and warmth around the lower
half of the incision, not tender to palpation and not indurated,
no fluctuation or drainage
GU: not wearing a pad, no vaginal bleeding
Extremities: no edema, no tenderness to palpation, she removed 
the pneumoboots while
sleeping (instructed to put back on once awake)

 
Pertinent Results:
==========================================
LABS ON ADMISSION
==========================================
chemistry: 

136  ___   AGap=19 
 
3.9  19  0.6 
Ca: 9.3 Mg: 1.9 P: 2.8

HCG: neg
  
CA125: 44

14.5 > 13.3 /38.8 < 279 
 
 N:86.3 L:9.7 M:3.0 E:0.0 Bas:0.2 ___: 0.8 Absneut: 12.49
Abslymp: 1.41 Absmono: 0.44 Abseos: 0.00 Absbaso: 0.03  

==========================================
IMAGING ON ADMISSION
==========================================
PUS: OSH
IMPRESSION:
1. The left ovary is unremarkable.
2. The right ovary could not be identified.

FINDINGS:

LUNG BASES: Unremarkable.

LIVER: The liver is normal in size and density.

GALLBLADDER: No gallstones are identified. Noncalcified
gallstones may
not be visible on CT.

BILE DUCTS: Unremarkable.

PANCREAS: Unremarkable.

SPLEEN: Unremarkable.

ADRENALS: Unremarkable.

KIDNEYS AND URETERS: Unremarkable.

VASCULATURE: Unremarkable.

ABDOMINAL NODES: No adenopathy is identified.

STOMACH: Unremarkable.

SMALL BOWEL: The small bowel is not dilated.

APPENDIX: There is a normal-appearing appendix medial to the
cecum.

COLON: Unremarkable.

BLADDER: Unremarkable.

REPRODUCTIVE: There is a large cystic lesion of the right ovary
filling the right anterior pelvis and abdomen. It measures 25.5
cm left, 28 cm cranial caudal, and 18 cm anterior to posterior.
There are areas of soft tissue nodularity along its inner wall
measuring up to 4.5 cm in size. Internal septations are present.
The finding is suspicious for ovarian malignancy. The lesion is
oriented cephalad and torsion would be a possibility prior
dislocation.

PELVIC NODES: No adenopathy is identified.

ABDOMINAL WALL: No hernia is identified.

MUSCULOSKELETAL: Unremarkable for age.

PERITONEUM: No fluid or free air is identified.

ADDITIONAL FINDINGS: None.
==========================================
RELEVANT LABS:
==========================================
___ 05:00AM BLOOD WBC-16.6* RBC-3.65* Hgb-11.1* Hct-32.6* 
MCV-89 MCH-30.4 MCHC-34.0 RDW-14.0 RDWSD-46.0 Plt ___
___ 07:21AM BLOOD WBC-14.0* RBC-3.63* Hgb-11.3 Hct-33.1* 
MCV-91 MCH-31.1 MCHC-34.1 RDW-14.0 RDWSD-46.7* Plt ___
___ 07:26AM BLOOD WBC-11.8* RBC-3.88* Hgb-11.9 Hct-35.1 
MCV-91 MCH-30.7 MCHC-33.9 RDW-13.8 RDWSD-46.0 Plt ___
___ 07:26AM BLOOD Plt ___
___ 07:21AM BLOOD Plt ___
___ 05:00AM BLOOD Plt ___
___ 05:00AM BLOOD Glucose-104* UreaN-8 Creat-0.6 Na-137 
K-3.7 Cl-105 HCO3-21* AnGap-15
___ 07:21AM BLOOD Glucose-98 UreaN-8 Creat-0.6 Na-138 K-3.6 
Cl-105 HCO3-23 AnGap-14
___ 07:26AM BLOOD Glucose-94 UreaN-7 Creat-0.6 Na-138 K-3.7 
Cl-103 HCO3-22 AnGap-17
___ 05:00AM BLOOD Calcium-8.3* Phos-2.5* Mg-1.8
___ 07:21AM BLOOD Calcium-8.3* Phos-2.5* Mg-1.8
___ 07:26AM BLOOD Calcium-8.8 Phos-2.1* Mg-2.2
==========================================
PATHOLOGY:
==========================================
results pending 

==========================================
LABS ON DISCHARGE
==========================================

___ 07:25AM BLOOD WBC-10.9* RBC-3.80* Hgb-11.7 Hct-34.2 
MCV-90 MCH-30.8 MCHC-34.2 RDW-13.5 RDWSD-44.7 Plt ___
___ 07:25AM BLOOD Plt ___
___ 07:25AM BLOOD Glucose-85 UreaN-9 Creat-0.6 Na-136 K-4.0 
Cl-101 HCO3-23 AnGap-16
___ 07:25AM BLOOD Calcium-8.7 Phos-2.9 Mg-2.3

 
Brief Hospital Course:
Ms. ___ was admitted to the gynecologic oncology service for 
management of ovarian torsion secondary to a mass. She underwent 
an exploratory laparotomy and right salpingo-oophorectomy. 
Please see the operative report for full details.  

*) Ovarian torsion secondary to a mass 
She presented to the ED with right abdominal pain and was found 
to have from an OSH ultrasound a 25x28x18 cm cystic right 
ovarian mass concerning for torsion due to malignancy vs 
borderline tumor vs benign mass.Her CA-125 was 44 and CEA was 
1.8.  Decision was made to go to the OR for care, and patient 
decided she wanted to preserve fertility options and keep her 
uterus and other ovary. She was kept NPO and given IV fluids in 
preparation of her surgery. Her post-operative course is 
detailed as follows. Immediately postoperatively, her pain was 
controlled with IV Dilaudid and toradol. Her diet was advanced 
without difficulty and she was transitioned to PO oxycodone, 
acetaminophen, and ibuprofen. On post-operative day #1, her 
urine output was adequate so her Foley catheter was removed and 
she voided spontaneously. 

By post-operative day 2, she was tolerating a regular diet, 
voiding spontaneously, ambulating independently, and pain was 
controlled with oral medications. She was then discharged home 
in stable condition with outpatient follow-up scheduled.

 
Medications on Admission:
None
 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q6H:PRN Pain - Mild 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
RX *acetaminophen 500 mg ___ tablet(s) by mouth q6hr Disp #*50 
Tablet Refills:*1 
2.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*60 Capsule Refills:*1 
3.  Ibuprofen 600 mg PO Q6H:PRN Pain 
take with food and water 
RX *ibuprofen 600 mg 1 tablet(s) by mouth q6hr Disp #*50 Tablet 
Refills:*1 
4.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Moderate 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
do not drink alcohol or drive. may cause sedation. partial fill 
on request 
RX *oxycodone 5 mg ___ mg tablet(s) by mouth q4hr Disp #*50 
Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Ovarian torsion secondary to ovarian mass 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,
.
You were admitted to the gynecologic oncology service after 
undergoing the procedures listed below. You have recovered well 
after your operation, and the team feels that you are safe to be 
discharged home. Please follow these instructions:  
.
Abdominal instructions:  
* Take your medications as prescribed.  We recommend you take 
non-narcotics (i.e. Tylenol, ibuprofen) regularly for the first 
few days post-operatively, and use the narcotic as needed. As 
you start to feel better and need less medication, you should 
decrease/stop the narcotic first.
* Take a stool softener to prevent constipation. You were 
prescribed Colace. If you continue to feel constipated and have 
not had a bowel movement within 48hrs of leaving the hospital 
you can take a gentle laxative such as milk of magnesium.  
* Do not drive while taking narcotics.  
* Do not combine narcotic and sedative medications or alcohol.  
* Do not take more than 4000mg acetaminophen (tylenol) in 24 
hrs.  
* No strenuous activity until your post-op appointment.  
* Nothing in the vagina (no tampons, no douching, no sex) for 4 
weeks 
* No heavy lifting of objects >10 lbs for 6 weeks.  
* You may eat a regular diet.
* It is safe to walk up stairs.  
.
Incision care:  
* You may shower and allow soapy water to run over incision; no 
scrubbing of incision. No bath tubs for 6 weeks.  
* You should remove your dressings ___ days after your surgery, 
if it has not already been removed in the hospital. Leave your 
steri-strips on.  If they are still on after ___ days from 
surgery, you may remove them.  

To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.  

.
Call your doctor at ___ for:  
* fever > 100.4  
* severe abdominal pain  
* difficulty urinating  
* vaginal bleeding requiring >1 pad/hr  
* abnormal vaginal discharge  
* redness or drainage from incision  
* nausea/vomiting where you are unable to keep down fluids/food 
or your medication  
* chest pain or difficulty breathing 
* onset of any concerning symptoms 

 
Followup Instructions:
___